US06316450B1
2,3,5-Trichloroaniline (D13)
2,3,5-Trichloro nitrobenzene (D12) was reduced with iron powder as described in Description 7 to give the title compound (D13) (68%), MH+ 196/198.

reactant | 2,3,5-Trichloro nitrobenzene | ClC1=C(C=C(C=C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
catalyst | iron | [Fe] | Fe
product | 2,3,5-Trichloroaniline | 68% | ClC1=C(N)C=C(C=C1Cl)Cl | C6H4Cl3N
